US08349886B2
5-[1-methyl-5-(methylsulfanyl)-1H-pyrazol-3-yl]-6-(tetrahydro-2H-pyran-4-yl)-1-{5-[(tetrahydro-2H-pyran-2-yloxy)methyl]-1,3-thiazol-2-yl}hexane-1,4-dione
A mixture of 4-[1-methyl-5-(methylsulfanyl)-1H-pyrazol-3-yl]-5-(tetrahydro-2H-pyran-4-yl)pent-1-en-3-one (0.60 g), 5-[(tetrahydro-2H-pyran-2-yloxy)methyl]-1,3-thiazole-2-carbaldehyde (0.48 g), 3-benzyl-5-(2-hydroxyethyl)-4-methyl-1,3-thiazol-3-ium chloride (54 mg), triethylamine (0.11 mL), tetrahydrofuran (6 mL) and ethanol (6 ml) was stirred with heating under reflux for 2 hr. The reaction mixture was concentrated, and the residue was subjected to basic silica gel column chromatography to give the title compound (0.65 g, yield 60%) as a yellow oil from the fraction eluted with ethyl acetate-hexane (1:1, volume ratio). MS: 522 (MH+).

reactant | 4-[1-methyl-5-(methylsulfanyl)-1H-pyrazol-3-yl]-5-(tetrahydro-2H-pyran-4-yl)pent-1-en-3-one | 0.60 g | CN1N=C(C=C1SC)C(C(C=C)=O)CC1CCOCC1 | C15H22N2O2S
reactant | 5-[(tetrahydro-2H-pyran-2-yloxy)methyl]-1,3-thiazole-2-carbaldehyde | 0.48 g | O1C(CCCC1)OCC1=CN=C(S1)C=O | C10H13NO3S
reactant | triethylamine | 0.11 mL | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
catalyst | 3-benzyl-5-(2-hydroxyethyl)-4-methyl-1,3-thiazol-3-ium chloride | 54 mg | [Cl-].C(C1=CC=CC=C1)[N+]1=CSC(=C1C)CCO
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 5-[1-methyl-5-(methylsulfanyl)-1H-pyrazol-3-yl]-6-(tetrahydro-2H-pyran-4-yl)-1-{5-[(tetrahydro-2H-pyran-2-yloxy)methyl]-1,3-thiazol-2-yl}hexane-1,4-dione | 0.65 g, yield 60% | CN1N=C(C=C1SC)C(C(CCC(=O)C=1SC(=CN1)COC1OCCCC1)=O)CC1CCOCC1 | C25H35N3O5S2
